US04772613
2,4-Dichlorophenylacetyl chloride (0.075 mol) was added dropwise over 1 h to a stirred solution of aniline (6.8 g) and triethylamine (7.6 g) in dry ether (200 ml) at 0°-5° C. The reaction mixture was allowed to warm up to room temperature overnight. It was then poured into iced water. An oily layer separated out and gradually solidified. This was recrystallised from diisopropyl ether to give 2-(2,4-dichlorophenyl)acetanilide, m.p. 145.6°-146.5° C.

reactant | 2,4-Dichlorophenylacetyl chloride | 0.075 mol | ClC1=C(C=CC(=C1)Cl)CC(=O)Cl | C8H5Cl3O
reactant | aniline | 6.8 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 7.6 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-(2,4-dichlorophenyl)acetanilide | ClC1=C(C=CC(=C1)Cl)CC(=O)NC1=CC=CC=C1 | C14H11Cl2NO
